US07435815B2
2-[(4-tert-Butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-N-(3-hydroxy-propyl)-N-quinolin-2-ylmethyl-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-acetic acid with 3-[(quinolin-2-ylmethyl)-amino]-propan-1-ol

reactant | [(4-tert-butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=CC(=CC=C1)N(C)C)CC(=O)O | C20H26N2O4S
reactant | 3-[(quinolin-2-ylmethyl)-amino]-propan-1-ol | N1=C(C=CC2=CC=CC=C12)CNCCCO | C13H16N2O
product | 2-[(4-tert-Butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-N-(3-hydroxy-propyl)-N-quinolin-2-ylmethyl-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(CC(=O)N(CC1=NC2=CC=CC=C2C=C1)CCCO)C1=CC(=CC=C1)N(C)C | C33H40N4O4S
